US04195023
A mixture of 25.3 g (0.1 mole) of n-butyl 5-(N,N-diethylaminomethyl)-2-furoate is added to 50 ml of liquid ammonia in a pressure vessel. The mixture is held at 180° C. and 2000 pounds per square inch gage pressure for 8 hours. The mixture is cooled to ambient temperature and evaporated to dryness giving 5-(N,N-diethylaminomethyl)-2-furamide (m.p. 164°-165° C.).

reactant | n-butyl 5-(N,N-diethylaminomethyl)-2-furoate | 0.1 mole, 25.3 g | C(C)N(CC)CC1=CC=C(O1)C(=O)OCCCC | C14H23NO3
reactant | ammonia | N | H3N
product | 5-(N,N-diethylaminomethyl)-2-furamide | C(C)N(CC)CC1=CC=C(O1)C(=O)N | C10H16N2O2
